US05162360
(a) Preparation of 2-trimethylsilyloxy-1-tridecene
A solution of n-butyllithium (12.6 mL, 27.7 mmol, 2.2 M in hexane) was added dropwise via syringe to a cooled (-78° C.) solution of diisopropylamine (4.1 mL, 29 mmol) in dry THF (200 mL). The resulting solution was stirred (15 minutes -78° C.), then a solution of 2-tridecanone (5.0 g, 25 mmol) in dry THF (50 mL) was added dropwise via a drop-in funnel. The resulting mixture was stirred (30 minutes, -78° C.), then a solution of chlorotrimethylsilane (3.5 mL, 28 mmol) in dry THF (40 mL) was added in one portion. The dry ice bath was removed and the resulting mixture was warmed to 10° C., then quenched with saturated sodium bicarbonate (100 mL). Dichloromethane (400 mL) and water (80 mL) were added and the layers were separated. The organic layer was washed with brine (1×200 mL), dried (MgSO4), and concentrated in vacuo to yield 6.7 g (98%) of the title compound as a milky oil which was used without further purification.

reactant | n-butyllithium | 27.7 mmol, 2.2 M, 12.6 mL | C(CCC)[Li]
reactant | diisopropylamine | 29 mmol, 4.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-tridecanone | 25 mmol, 5.0 g | CC(CCCCCCCCCCC)=O | C13H26O
reactant | chlorotrimethylsilane | 28 mmol, 3.5 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-trimethylsilyloxy-1-tridecene | 6.7 g, 98% | C[Si](OC(=C)CCCCCCCCCCC)(C)C | C16H34OSi
